*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805HT-1N8
* Inductance = 1.8nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-14.7GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0805HT-1N8_freq port1 port2 PARAMS: Cpar=0.072pF Ind=1.8nH
X1 port1 port2 Model2A PARAMS:
+ R1=6
+ R2=0.03
+ C= {Cpar}
+ K1=0.00000604
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=3726.22167
.ends 0805HT-1N8_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805HT-3N9
* Inductance = 4nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-12.5GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0805HT-3N9_freq port1 port2 PARAMS: Cpar=0.045pF Ind=4nH
X1 port1 port2 Model2A PARAMS:
+ R1=7
+ R2=0.05
+ C= {Cpar}
+ K1=0.0000122
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=10675.6004
.ends 0805HT-3N9_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805HT-4N7
* Inductance = 4.5nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-11.4GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0805HT-4N7_freq port1 port2 PARAMS: Cpar=0.048pF Ind=4.5nH
X1 port1 port2 Model2A PARAMS:
+ R1=8
+ R2=0.06
+ C= {Cpar}
+ K1=0.0000136
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=9960.80648
.ends 0805HT-4N7_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805HT-6N8
* Inductance = 6.9nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-9.5GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0805HT-6N8_freq port1 port2 PARAMS: Cpar=0.045pF Ind=6.9nH
X1 port1 port2 Model2A PARAMS:
+ R1=8
+ R2=0.08
+ C= {Cpar}
+ K1=0.0000211
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=15328.7055
.ends 0805HT-6N8_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805HT-8N2
* Inductance = 8.2nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-8.1GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0805HT-8N2_freq port1 port2 PARAMS: Cpar=0.052pF Ind=8.2nH
X1 port1 port2 Model2A PARAMS:
+ R1=9
+ R2=0.08
+ C= {Cpar}
+ K1=0.000025
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=14090.1174
.ends 0805HT-8N2_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805HT-10N
* Inductance = 9.9nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-5.7GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0805HT-10N_freq port1 port2 PARAMS: Cpar=0.088pF Ind=9.9nH
X1 port1 port2 Model2A PARAMS:
+ R1=9
+ R2=0.08
+ C= {Cpar}
+ K1=0.0000234
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=10500.0728
.ends 0805HT-10N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805HT-12N
* Inductance = 12nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-7.1GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0805HT-12N_freq port1 port2 PARAMS: Cpar=0.047pF Ind=12nH
X1 port1 port2 Model2A PARAMS:
+ R1=10
+ R2=0.1
+ C= {Cpar}
+ K1=0.0000286
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=20692.5686
.ends 0805HT-12N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805HT-15N
* Inductance = 14.6nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-5.1GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0805HT-15N_freq port1 port2 PARAMS: Cpar=0.076pF Ind=14.6nH
X1 port1 port2 Model2A PARAMS:
+ R1=10
+ R2=0.1
+ C= {Cpar}
+ K1=0.0000314
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=15788.9773
.ends 0805HT-15N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805HT-18N
* Inductance = 17.6nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-5.5GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0805HT-18N_freq port1 port2 PARAMS: Cpar=0.053pF Ind=17.6nH
X1 port1 port2 Model2A PARAMS:
+ R1=11
+ R2=0.13
+ C= {Cpar}
+ K1=0.0000374
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=24244.2182
.ends 0805HT-18N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805HT-22N
* Inductance = 22nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-5.4GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0805HT-22N_freq port1 port2 PARAMS: Cpar=0.04pF Ind=22nH
X1 port1 port2 Model2A PARAMS:
+ R1=11
+ R2=0.15
+ C= {Cpar}
+ K1=0.0000479
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=37913.4822
.ends 0805HT-22N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805HT-27N
* Inductance = 27nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-4GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0805HT-27N_freq port1 port2 PARAMS: Cpar=0.065pF Ind=27nH
X1 port1 port2 Model2A PARAMS:
+ R1=16
+ R2=0.19
+ C= {Cpar}
+ K1=0.0000559
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=21368.5511
.ends 0805HT-27N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805HT-33N
* Inductance = 33nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-3.9GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0805HT-33N_freq port1 port2 PARAMS: Cpar=0.058pF Ind=33nH
X1 port1 port2 Model2A PARAMS:
+ R1=20
+ R2=0.19
+ C= {Cpar}
+ K1=0.0000631
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=23909.113
.ends 0805HT-33N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805HT-39N
* Inductance = 40nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-3.8GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0805HT-39N_freq port1 port2 PARAMS: Cpar=0.05pF Ind=40nH
X1 port1 port2 Model2A PARAMS:
+ R1=24
+ R2=0.27
+ C= {Cpar}
+ K1=0.0000721
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=28278.141
.ends 0805HT-39N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805HT-47N
* Inductance = 47nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-3.6GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0805HT-47N_freq port1 port2 PARAMS: Cpar=0.048pF Ind=47nH
X1 port1 port2 Model2A PARAMS:
+ R1=28
+ R2=0.3
+ C= {Cpar}
+ K1=0.000101
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=28942.0038
.ends 0805HT-47N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805HT-56N
* Inductance = 56nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-3.2GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0805HT-56N_freq port1 port2 PARAMS: Cpar=0.05pF Ind=56nH
X1 port1 port2 Model2A PARAMS:
+ R1=20
+ R2=0.39
+ C= {Cpar}
+ K1=0.000117
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=42406.2868
.ends 0805HT-56N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805HT-68N
* Inductance = 68nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-2.6GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0805HT-68N_freq port1 port2 PARAMS: Cpar=0.061pF Ind=68nH
X1 port1 port2 Model2A PARAMS:
+ R1=16
+ R2=0.4
+ C= {Cpar}
+ K1=0.000144
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=48143.1954
.ends 0805HT-68N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805HT-82N
* Inductance = 81nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-2.6GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0805HT-82N_freq port1 port2 PARAMS: Cpar=0.051pF Ind=81nH
X1 port1 port2 Model2A PARAMS:
+ R1=18
+ R2=0.44
+ C= {Cpar}
+ K1=0.000172
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=59808.1072
.ends 0805HT-82N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805HT-R10
* Inductance = 101nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-2.2GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0805HT-R10_freq port1 port2 PARAMS: Cpar=0.059pF Ind=101nH
X1 port1 port2 Model2A PARAMS:
+ R1=20
+ R2=0.64
+ C= {Cpar}
+ K1=0.000184
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=60381.9848
.ends 0805HT-R10_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805HT-R12
* Inductance = 120nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-2.1GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0805HT-R12_freq port1 port2 PARAMS: Cpar=0.056pF Ind=120nH
X1 port1 port2 Model2A PARAMS:
+ R1=22
+ R2=0.68
+ C= {Cpar}
+ K1=0.000196
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=69955.0055
.ends 0805HT-R12_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805HT-R15
* Inductance = 146nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-1.9GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0805HT-R15_freq port1 port2 PARAMS: Cpar=0.054pF Ind=146nH
X1 port1 port2 Model2A PARAMS:
+ R1=25
+ R2=0.8
+ C= {Cpar}
+ K1=0.000198
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=81002.1507
.ends 0805HT-R15_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805HT-R18
* Inductance = 179nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-1.7GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0805HT-R18_freq port1 port2 PARAMS: Cpar=0.054pF Ind=179nH
X1 port1 port2 Model2A PARAMS:
+ R1=24
+ R2=0.86
+ C= {Cpar}
+ K1=0.000317
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=90199.3181
.ends 0805HT-R18_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805HT-R22
* Inductance = 215nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-1.5GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0805HT-R22_freq port1 port2 PARAMS: Cpar=0.064pF Ind=215nH
X1 port1 port2 Model2A PARAMS:
+ R1=34
+ R2=1.29
+ C= {Cpar}
+ K1=0.000244
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=78163.1454
.ends 0805HT-R22_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805HT-R27
* Inductance = 268nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-1.5GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0805HT-R27_freq port1 port2 PARAMS: Cpar=0.034pF Ind=268nH
X1 port1 port2 Model2A PARAMS:
+ R1=25
+ R2=1.4
+ C= {Cpar}
+ K1=0.000432
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=184871.97
.ends 0805HT-R27_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805HT-R33
* Inductance = 326nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-1.3GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0805HT-R33_freq port1 port2 PARAMS: Cpar=0.048pF Ind=326nH
X1 port1 port2 Model2A PARAMS:
+ R1=36
+ R2=1.93
+ C= {Cpar}
+ K1=0.000485
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=127441.126
.ends 0805HT-R33_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805HT-R39
* Inductance = 384nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-1.2GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0805HT-R39_freq port1 port2 PARAMS: Cpar=0.047pF Ind=384nH
X1 port1 port2 Model2A PARAMS:
+ R1=36
+ R2=2.8
+ C= {Cpar}
+ K1=0.000605
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=143799.746
.ends 0805HT-R39_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805HT-R47
* Inductance = 462nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-1.1GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0805HT-R47_freq port1 port2 PARAMS: Cpar=0.043pF Ind=462nH
X1 port1 port2 Model2A PARAMS:
+ R1=145
+ R2=3.1
+ C= {Cpar}
+ K1=0.000737
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=63355.1301
.ends 0805HT-R47_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805HT-R50
* Inductance = 491nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-1.05GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0805HT-R50_freq port1 port2 PARAMS: Cpar=0.045pF Ind=491nH
X1 port1 port2 Model2A PARAMS:
+ R1=7
+ R2=3.2
+ C= {Cpar}
+ K1=0.00127
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=224730.439
.ends 0805HT-R50_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft RF Inductor Model
*======================================================================
* Model Parameters:
*   Valid Frequency Range Varies by Inductor
*   Ambient Temperature = 25 degC
*   DC Bias Current = 0 A
*   Frequency Dependent Inductor Model
*======================================================================
.subckt Model2A Lin Lout PARAMS:
+ R1=1
+ R2=1
+ C=1
+ K1=1
+ K3=1
R2 N001 Lin {R2}
R1 Lout N002 {R1}
C1 N002 N001 {C}
G_Rvar1 N001 N003 LAPLACE { V(N001, N003) } {1/K1/(-S*S/4/PI^2)^0.25}
L1 N003 Lout = {K3}
.ends Model2A








.subckt Coilcraft_Inductor Lin Lout
R1 Lout Lin 100Meg
.ends Coilcraft_Inductor
